US04468399
About 1.77 g. of sodium were dissolved in 75 ml. of anhydrous methanol under a positive nitrogen atmosphere. The sodium methoxide in methanol solution was cooled and 7.28 g. of dried nitroguanidine added thereto. The reaction mixture was heated to reflux temperature briefly after which time 14.5 g. of ethyl 2-formyl-3-(4-pyridyl)propionate (prepared by the method of U.S. Pat. No. 4,216,318) were added thereto. This reaction mixture was then heated to refluxing temperature for about 19 hours. Volatile constituents were removed by evaporation and water was added to the residue. The aqueous mixture was extracted 3 times with chloroform and the chloroform extracts discarded. The aqueous solution was then chilled to about 0° C. and 15.4 ml. of 5N aqueous hydrochloric acid added. 2-Nitroamino-5-(4-pyridyl)methyl-4-pyrimidone formed in the above reaction precipitated and the precipitate was collected by filtration. The filter cake was washed with water and dried. 9.9 g. of product were obtained melting at about 228°-229° C.

reactant | sodium | [Na] | Na
reactant | sodium methoxide | C[O-].[Na+]
reactant | nitroguanidine | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | ethyl 2-formyl-3-(4-pyridyl)propionate | C(=O)C(C(=O)OCC)CC1=CC=NC=C1 | C11H13NO3
solvent | methanol | CO | CH4O
product | 2-Nitroamino-5-(4-pyridyl)methyl-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC=NC=C1 | C10H9N5O3
